US09422281B2
(S)-4-(1-acetyl-4-(isopropoxycarbonyl)-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoic acid was synthesized from (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate and 4-carboxyphenylboronic acid according to the procedure outlined above for (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 419 [M+Na]+

reactant | (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC(C)C)C | C15H19BrN2O3
reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C1(CC1)C(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OC(C)C)C | C20H24N4O3
product | (S)-4-(1-acetyl-4-(isopropoxycarbonyl)-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoic acid | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C1=CC=C(C(=O)O)C=C1)C(=O)OC(C)C)C | C22H24N2O5
